Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulindac / Aspirin / Hycodan
 
Attending: ___.
 
Chief Complaint:
Dypsnea and productive cough for ___ days
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This patient is an ___ year old woman with a PMH significant for 
chronic sinusitis, hypertension, obstructive sleep apnea, who 
presents with ___ four days of progressive productive cough.  
She was feeling well until the end of last week when she 
developed a hacking cough first productive of white sputum which 
then turned yellow.  No hemoptysis.  She has felt wheezy and 
fatigued.  She has not felt febrile, and her daughter has taken 
her temperature over the weekend which were normal.  Last night 
she could not fall asleep because she was coughing so violently, 
which was her reason for admission. She has had no sick 
contacts.  She traveled to ___ one week ago to attend 
the walk for cancer to support her grand-daughter.  The family 
members she lived with were in good health. She has a previous 
smoking history, quit about ___ years ago.  She has a history of 
chronic sinusitis, post nasal drip with chronic mucus in the 
morning.  She has not had an episode coughing this severe but 
reports several episodes of coughing and shortness of breath a 
year.  Her wheezing and shortness of breath are exacerbated by 
anxiety, excercise and colds.  She has had some episodes of 
recent diarrhea after she eats, which is a chronic issue for 
her.  She also reports a history of increased nocturnal urinary 
frequency but no pain or burning on urinartion.
.
She denies a history of COPD or CHF.  She does have 
prescriptions for albuterol and ipratropium which she was 
originally prescribed several years ago.  These medications were 
for wheezing when she walked or when she developed a cold.  She 
does not believe these medications were helping her, and stopped 
refilling the prescription several months ago.  The last time 
she used her rescue inhaler was about one month ago.  She sleeps 
with ___ pillows at night and does not wake up short of breath.  
She has periodic swelling of her legs which improves when she 
raises her legs. She has never been treated with lasix.
.
In the ED her initial vital signs were 97.8 hr 125 bp 112/98 and 
100/2L. Her exam was notable for moderate respiratory distress 
with coarse, distant breath sounds with wheezing and 2+ pitting 
edema to the mid calf bilaterally. Labs were notable for BNP of 
1024, and a lactate of 1.0. An ABG 7.43/44/66. She was given 
albuterol and atrovent nebulizers and started on 
methylprednisone 125mg. A CXR was notable for a possible left 
lower lobe haziness. She was admitted for acute on chronic COPD 
exacerbation with mild CHF. Her vital signs at the time of 
transfer were 152/74 61 24 98%/3L NC.  
.
 
Past Medical History:
# Status post right shoulder replacement  
# Status post right hip replacement.  
# Sinusitis.
# Nonallergic Rhinitis
# Bronchial asthma - not supported by PFTs
# OSA and ? obesity hypoventilation syndrome - followed by Dr. 
___ 
# GERD.  
# Hypertension.  
# History of glaucoma.  
# Arthritis.  
# CAD with normal persantine MIBI in ___.  
# History of cataract surgery.  
# Influenza A ___
 
Social History:
___
Family History:
Prostate Cancer: positive
Breast Cancer: Her mother, a daughter and a granddaughter.  Her 
___ died of breast cancer at age ___.
COPD: Her daughter died of complications associated w/ COPD
CAD: none 
 
Physical Exam:
VS: 152/74 61 24 98%/3L NC.  
Gen: elderly woman in moderate distress  
HEENT: NCAT PERRL EOMI  
Neck: difficult to assess ___ habitus  
CV: RRR S1/S2 No R/G/M  
Lungs: coarse sounds bilaterally, no wheeze (just received 
nebs), no focal crackles  
Abd: obese, soft, NTND, +BS  
Ext: ___ edema, WWP, distal pulses intact  
Neuro: CNII-XII intact, moving all extremities  
 
Pertinent Results:
___ 05:35AM BLOOD WBC-10.7 RBC-4.60 Hgb-13.8 Hct-40.8 
MCV-89 MCH-30.0 MCHC-33.8 RDW-14.7 Plt ___
___ 03:30PM BLOOD WBC-8.7 RBC-4.74 Hgb-14.6 Hct-42.1 MCV-89 
MCH-30.8 MCHC-34.7 RDW-15.0 Plt ___
___ 03:30PM BLOOD Neuts-61.4 ___ Monos-6.2 Eos-3.9 
Baso-1.9
___ 05:35AM BLOOD Glucose-118* UreaN-24* Creat-0.8 Na-145 
K-3.4 Cl-106 HCO3-31 AnGap-11
___ 03:30PM BLOOD Glucose-134* UreaN-11 Creat-0.8 Na-145 
K-3.3 Cl-108 HCO3-28 AnGap-12
___ 03:30PM BLOOD proBNP-1024*
___ 05:35AM BLOOD Calcium-8.9 Phos-2.5* Mg-2.2
___ 03:30PM BLOOD Calcium-9.2 Phos-2.3* Mg-1.8
___ 04:36PM BLOOD Type-ART FiO2-20 pO2-66* pCO2-44 pH-7.43 
calTCO2-30 Base XS-3 Intubat-NOT INTUBA Comment-97.8 RECTA
___ 03:34PM BLOOD Lactate-1.8
.
ECG ___ Sinus bradycardia. Occasional atrial premature 
beats. Compared to the previous tracing of ___ there is no 
change. 
.
CXR ___ FINDINGS: AP upright portable chest radiograph is 
obtained. The left IJ central venous catheter has been removed. 
Lungs are clear bilaterally. No definite evidence for pneumonia 
or CHF. No pleural effusion or pneumothorax is seen. 
Cardiomediastinal silhouette appears unremarkable aside from an 
unfolded thoracic aorta. Bilateral hip replacements are again 
noted. Otherwise, the osseous structures appear essentially 
stable. IMPRESSION: No acute intrathoracic process. 
  

 
Brief Hospital Course:
# Shortness of Breath, Productive Cough: Etiology concerning for 
acute bronchitis versus asthma attack verus reactive airway.  
Symptoms of productive cough and chills concerning for 
bronchitis.  She was treated with 5 days of azithromycin.  Given 
mild restrictive pattern on  previous PFTs and distant smoking 
history not likely COPD exacerbation.  She has a history of 
asthma and allergic rhinitis, therefore may be componenent of 
reactive airway disease.  She was treated with standing 
nebulizer treatments and oral prednisone for 5 days.  Her cough 
was treated with guaifenacin and codeine.  She received a one 
time dose of Tessalon Perles for pain with coughing.  BNP 
elevated on admission concerning for mild CHF exacerbation 
however benign lung exam, no JVD, unremarkable CXR and mild 
stable peripheral edema so she was not diuresed.  Previous echo 
in ___ revealed CHF > 55%.  She should follow up with her 
outpatient cardiologist regarding this admission. Physical 
therapy evaluated the patient and she did not require home 
oxygen. She was continued on amlodipine, atenolol, hctz and 
lisinopril
.  
# Urinary Frequency: Ms. ___ reports a history of urinary 
frequency. Urinalysis was unremarkable.  No symptoms of pain 
with urination, fevers or flank tenderness at this time.

 
Medications on Admission:
albuterol sulfate 90 mcg HFA 2 puffs q ___ prn  
ipratropium 21mcg stray each nostril qpm  
amlodipine 5mg daily  
atenolol 100mg daily  
HCTZ 25mg daily  
lisinopril 40mg daily  
omeprazile 20mg BID  
KCl 20mEq SR daily  
sertraline 75mg qAM  
simvastatin 10mg daily  
ergocalciferol 400units daily  
 
Discharge Medications:
1. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal Sig: 
One (1) Tab Sust.Rel. Particle/Crystal PO once a day.  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: Two (2)  Inhalation every ___ hours as needed 
for sob wheeze.  
4. Ipratropium Bromide 0.03 % Spray, Non-Aerosol Sig: One (1)  
Nasal at bedtime.  
5. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Atenolol 100 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
10. Sertraline 50 mg Tablet Sig: One (1) Tablet PO once a day: 
take with 25mg tablet for 75 mg total.  
11. Sertraline 25 mg Tablet Sig: One (1) Tablet PO once a day: 
take with 50mg tablet for a total of 75mg daily.  
12. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
14. Azithromycin 250 mg Tablet Sig: Two (2) Tablet PO Q24H 
(every 24 hours).
Disp:*2 Tablet(s)* Refills:*0*
15. Prednisone 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*2 Tablet(s)* Refills:*0*
16. Codeine-Guaifenesin ___ mg/5 mL Syrup Sig: ___ MLs PO 
Q4H (every 4 hours) as needed for cough.
Disp:*100 ML(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Bronchitis versus Viral URI
2. Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for cough and shortness of breath concerning 
for acute bronchitis, which is a bacterial or viral infection of 
your upper lungs.  You were started on antibiotics, steroids, 
supplementary oxygen and nebulizer treatments as needed.  Your 
cough was treated with guaifenacin - codeine for symptomatic 
relief.

The following changes were made to your medications.
Please continue taking your prednisone and antibiotic therapy 
for one additional day.
 
Followup Instructions:
___